data/oMe_Silver.jsonl
{"reaction_id": "NR-220_1-C2CCCCC2","level": "hard","name": "Piancatelli Rearrangement","reactants_smiles": ["C(O)(c1occc1)(C2CCCCC2)"],"products_smiles": ["C1C(O)C(C2CCCCC2)C(=O)C=1"],"conditions": "H+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(c1occc1)(C2CCCCC2)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting it into water, facilitated by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[CH+](c1occc1)C2CCCCC2","step_weight": 0,"rationale": "Heterolytic cleavage releases neutral water, generating a resonance-stabilized carbocation adjacent to the electron-rich furan ring."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC([OH2+])OC1=CC2CCCCC2","step_weight": 0,"rationale": "The furan π-system attacks the carbocation, forming a new C–C bond; aromaticity loss is offset by carbocation stabilization."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=CC([OH])[OH+]C1=CC2CCCCC2","step_weight": 0,"rationale": "Proton transfer adjusts the charge distribution, preparing the intermediate for elimination by generating a better leaving group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[OH+])C=CC([OH])=CC2CCCCC2","step_weight": 0,"rationale": "Elimination of a protonated hydroxyl group forms a conjugated enone system, driven by the stability of the α,β-unsaturated carbonyl."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1C(O)C(C2CCCCC2)C(=O)C=1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack by the hydroxyl group closes the cyclopentane ring, favored by proximity and relief of carbocation instability."}],"description": "Under acidic conditions, the Piancatelli rearrangement proceeds via protonation-induced ring opening of the furan, generating a stabilized carbocation. Subsequent nucleophilic additions and proton transfers reorganize the skeleton, leading to cyclopentenone formation with hydroxyl substitution adjacent to the carbonyl."}
{"reaction_id": "NR-101_1-CC(F)(F)F_2-c3ccc(C(F)(F)F)cc3","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(CC(F)(F)F)(c3ccc(C(F)(F)F)cc3)","BrBr"],"products_smiles": ["C(Br)CC(CC(F)(F)F)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(CC(F)(F)F)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(CC(F)(F)F)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(CC(F)(F)F)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
